US07323455B2
(2-Amino-5-bromophenyl)[di(3-furyl)]methanol
Prepared from methyl 2-amino-5-bromobenzoate and 3-furyllithium following the procedure described in example 24. 1H NMR (DMSO-d6): δ 7.6 (t, J=1.73 Hz, 2H), 7.25 (q, J=1.51, 0.81 Hz, 2H), 7.10 (q, J=8.46, 2.43 Hz, 1H), 6.79 (d, J=2.43 Hz, 1H), 6.56 (d, J=8.46 Hz, 1H), 6.46 (d, J=8.46 Hz, 1H), 6.39 (q, J=1.73, 0.81 Hz, 2H), 5.35 (s, 2H); MS (ESI) m/z 332/334 ([M−H]−).

reactant | methyl 2-amino-5-bromobenzoate | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 3-furyllithium | O1C=C(C=C1)[Li]
product | (2-Amino-5-bromophenyl)[di(3-furyl)]methanol | NC1=C(C=C(C=C1)Br)C(O)(C1=COC=C1)C1=COC=C1 | C15H12BrNO3
